US07514567B2
(R)-3′-(4-Bromothiophen-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one
(S)-Spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one (471 mg, 2.58 mmol), 2,4-dibromothiophene (1.875 g, 7.75 mmole), copper (I) iodide (492 mg, 2.58 mmol), potassium carbonate (715 mg, 5.17 mmol) and ethylenediamine (170 μL, 2.58 mmol) in 1,4-dioxane (5 mL) were stirred at 110° C. overnight. The solution was allowed to cool, and then filtered, washed with aqueous ammonium hydroxide and evaporated. The residue was purified by flash chromatography using a gradient of ammoniated methanol in chloroform to give the title compound as a yellow solid (560 mg), m/z 343, 345 (MH+).

reactant | (S)-Spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | 2.58 mmol, 471 mg | O1C(NC[C@@]12CN1CCC2CC1)=O | C9H14N2O2
reactant | 2,4-dibromothiophene | 7.75 mmole, 1.875 g | BrC=1SC=C(C1)Br | C4H2Br2S
reactant | potassium carbonate | 5.17 mmol, 715 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethylenediamine | 2.58 mmol, 170 μL | C(CN)N | C2H8N2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | copper (I) iodide | 2.58 mmol, 492 mg | [Cu]I
product | (R)-3′-(4-Bromothiophen-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | 560 mg | BrC=1C=C(SC1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C13H15BrN2O2S
